US04224330
A mixture of 20 ml DMF, 2-(5-chloro-2-benzothienyl)-3-methylbutanoic acid (0.5 g), K2CO3 (0.51 g) and 3-phenoxybenzyl bromide (0.44 g) is stirred, under nitrogen, for about 15 hours. The mixture is then taken up in ether, washed with water and brine, dried over Na2SO4 and solvent removed. The crude product is plated developing with 10% ether/hexane to give 3-phenoxybenzyl 2-(5-chloro-2-benzothienyl)-3-methylbutanoate.

reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | 2-(5-chloro-2-benzothienyl)-3-methylbutanoic acid | 0.5 g | ClC=1C=CC2=C(C=C(S2)C(C(=O)O)C(C)C)C1 | C13H13ClO2S
reactant | K2CO3 | 0.51 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-phenoxybenzyl bromide | 0.44 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
solvent | ether | CCOCC | C4H10O
product | 3-phenoxybenzyl 2-(5-chloro-2-benzothienyl)-3-methylbutanoate | ClC=1C=CC2=C(C=C(S2)C(C(=O)OCC2=CC(=CC=C2)OC2=CC=CC=C2)C(C)C)C1 | C26H23ClO3S
